US07067517B2
3,4-Dihydro-2H-quinoline-1-carboxylic acid 3-(2-chloro-6-fluoro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-(2-chloro-6-fluoro-benzyl)-7-hydroxy-4-methyl-2H-chromen-2-one and 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide. HPLC-MS m/z=478 (M+1), Rt: 5.58 min.

reactant | 3-(2-chloro-6-fluoro-benzyl)-7-hydroxy-4-methyl-2H-chromen-2-one | ClC1=C(CC=2C(OC3=CC(=CC=C3C2C)O)=O)C(=CC=C1)F | C17H12ClFO3
reactant | 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].N1(CCCC2=CC=CC=C12)C(=O)N1C=[N+](C=C1)C
product | 3,4-Dihydro-2H-quinoline-1-carboxylic acid 3-(2-chloro-6-fluoro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | ClC1=C(CC=2C(OC3=CC(=CC=C3C2C)OC(=O)N2CCCC3=CC=CC=C23)=O)C(=CC=C1)F | C27H21ClFNO4
